US04450169
A solution of 1.26 g of (1R,3R) 2,2-dimethyl-3-(2,2-dibromoethenyl)-cyclopropane-carboxylic acid chloride in 8 ml of benzene was added with stirring at 5° C. to a solution of 0.8 g of (2-benzyl-5-thiazolyl)-methanol in 8 ml of benzene and 0.8 ml of pyridine and the mixture was stirred at 20° C. for 17 hours and was poured into aqueous 2N hydrochloric acid solution with stirring. The decanted organic phase was washed with water and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with a 7-3 hexane-ethyl acetate mixture to obtain 1.41 g of (2-benzyl-5-thiazolyl)-methyl (1R,3R) 2,2-dimethyl-3-[2,2-dibromoethenyl]-cyclopropane-1-carboxylate melting at 66° C. and having a specific rotation of [α]D20 =+9°±1° (c=1% in benzene).

reactant | (1R,3R) 2,2-dimethyl-3-(2,2-dibromoethenyl)-cyclopropane-carboxylic acid chloride | 1.26 g | CC1([C@@H]([C@@H]1C=C(Br)Br)C(=O)Cl)C | C8H9Br2ClO
reactant | (2-benzyl-5-thiazolyl)-methanol | 0.8 g | C(C1=CC=CC=C1)C=1SC(=CN1)CO | C11H11NOS
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
product | (2-benzyl-5-thiazolyl)-methyl (1R,3R) 2,2-dimethyl-3-[2,2-dibromoethenyl]-cyclopropane-1-carboxylate | 1.41 g | CC1([C@@H]([C@@H]1C=C(Br)Br)C(=O)OCC1=CN=C(S1)CC1=CC=CC=C1)C | C19H19Br2NO2S
